US04639338
77.1 g of 3-amino-1-hydroxypropane-1,1-diphosphonic acid are suspended in 250 ml of demineralised water, and while stirring vigorously, 65.6 g of 40% aqueous sodium hydroxide solution are added. The rate of addition thereof is so regulated that the temperature of the reaction mixture during neutralisation rises to approximately 50° C. The reaction mixture is heated to 52° C. and inoculated and allowed to cool slowly to room temperature and left to stand overnight; the resulting salt cake is filtered with suction, washed with 120 ml of approximately 66% methanol and dried under 10-20 mbar at 150° C. until the weight is constant. Disodium 3-amino-1-hydroxypropane-1,1-diphosphonate is obtained in a substantially anhydrous crystalline form (modification A). This form is characterised by the following lattice spacings (d-values) and relative line intensities (intensities) of its X-ray powder pattern (camera according to Guinier-de-Wolff, radiation source: copper-Kα):

reactant | 3-amino-1-hydroxypropane-1,1-diphosphonic acid | 77.1 g | NCCC(P(O)(=O)O)(P(O)(=O)O)O | C3H11NO7P2
reactant | sodium hydroxide | 65.6 g | [OH-].[Na+]
solvent | water | 250 ml | O | H2O
product | Disodium 3-amino-1-hydroxypropane-1,1-diphosphonate | NCCC(P([O-])(=O)[O-])(P(O)(=O)O)O.[Na+].[Na+] | InChI=1S/C3H11NO7P2.2Na/c4-2-1-3(5,12(6,7)8)13(9,10)11;;/h5H,1-2,4H2,(H2,6,7,8)(H2,9,10,11);;/q;2*+1/p-2
